US08084489B2
To a mixture of (-±)-5-[1-(2,6-dimethyl-4′-trifluoromethyl-biphenyl-4-yloxy)-ethyl]-thiophene-2-carboxylic acid (0.545 g, 1.30 mmol), 3-amino-propionic acid methyl ester hydrochloride (0.199 g, 1.43 mmol), and 1-hydroxybenzotriazole hydrate (HOBt, 0.217 g, 1.60 mmol) in DMF (13.0 mL) is added N,N-diisopropylethylamine (0.67 mL, 3.84 mmol), then N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride (EDCI, 0.330 g, 1.72 mmol) and stirred overnight. The reaction mixture is poured into H2O (25 mL) and extracted with EtOAc (3×25 mL). Combined organic extracts are washed with H2O, brine, dried over MgSO4, filtered, and concentrated. The residue is loaded onto silica gel and eluted using hexanes with an ethyl acetate gradient from 0% to 75% to provide (±)-3-({5-[1-(2,6-dimethyl-4′-trifluoromethyl-biphenyl-4-yloxy)-ethyl]-thiophene-2-carbonyl}-amino)-propionic acid methyl ester (0.490 g, 75%) as a white foam. MS (ES): 504.3 [M−H]−.

reactant | (-±)-5-[1-(2,6-dimethyl-4′-trifluoromethyl-biphenyl-4-yloxy)-ethyl]-thiophene-2-carboxylic acid | 1.30 mmol, 0.545 g | CC1=C(C(=CC(=C1)OC(C)C1=CC=C(S1)C(=O)O)C)C1=CC=C(C=C1)C(F)(F)F | C22H19F3O3S
reactant | 3-amino-propionic acid methyl ester hydrochloride | 1.43 mmol, 0.199 g | Cl.COC(CCN)=O
reactant | 1-hydroxybenzotriazole hydrate | 1.60 mmol, 0.217 g | O.ON1N=NC2=C1C=CC=C2
reactant | N,N-diisopropylethylamine | 3.84 mmol, 0.67 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride | 1.72 mmol, 0.330 g | Cl.CN(CCCN=C=NCC)C
solvent | DMF | 13.0 mL | CN(C)C=O | C3H7NO
solvent | H2O | 25 mL | O | H2O
product | (±)-3-({5-[1-(2,6-dimethyl-4′-trifluoromethyl-biphenyl-4-yloxy)-ethyl]-thiophene-2-carbonyl}-amino)-propionic acid methyl ester | 0.490 g, 75% | COC(CCNC(=O)C=1SC(=CC1)C(C)OC1=CC(=C(C(=C1)C)C1=CC=C(C=C1)C(F)(F)F)C)=O | C26H26F3NO4S
